US09399636B2
Step 2: 2-chloro-6-(3,3-difluoropyrrolidin-1-yl)-4-(1-(oxetan-3-yl)piperidin-4-yl)pyridine
To an ice-cooled solution of tert-butyl 4-(2-chloro-6-(3,3-difluoropyrrolidin-1-yl)pyridin-4-yl)piperidine-1-carboxylate (0.220 g, 0.547 mmol, 1 equiv) in dichloromethane (2 mL) was added trifluoroacetic acid (2 mL). After 2 h, the reaction mixture was concentrated in vacuo (25 mm Hg). The resulting residue was dissolved in dichloromethane (10 mL), and the solution was washed with saturated aqueous sodium bicarbonate solution (5 mL). The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated. The resulting residue was dissolved in tetrahydrofuran (2 mL). Oxetan-3-one (0.112 mL, 1.10 mmol, 2.00 equiv) and sodium triaetoxyborohydride (366 mg, 1.64 mmol, 3.00 equiv) were sequentially added to the solution at 24° C. After 35 min, the reaction mixture was partitioned between ethyl acetate (10 mL) and saturated aqueous ammonium chloride solution (10 mL). The organic was separated and the aqueous layer was further extracted with ethyl acetate (2×5 mL). The combined organic was dried over anhydrous sodium sulfate, filtered, and concentrated. Purification by flash column chromatography (98:2 dichloromethane/methanol+0.1% ammonium hydroxide) furnished product as a clear oil (166 mg, 85% yield). 1H NMR (CDCl3, 400 MHz), δ: 6.54 (s, 1H), 6.07 (s, 1H), 4.67 (t, J=6.3 Hz, 2H), 4.63 (t, J=6.3 Hz, 2H), 3.82 (t, J=13.2 Hz, 2H), 3.66 (t, J=7.2 Hz, 2H), 3.50 (m, 1H), 2.86 (m, 2H), 2.38-2.52 (m, 3H), 1.72-1.94 (m, 6H).

reactant | tert-butyl 4-(2-chloro-6-(3,3-difluoropyrrolidin-1-yl)pyridin-4-yl)piperidine-1-carboxylate | 0.547 mmol, 0.220 g, 1 equiv | ClC1=NC(=CC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C)N1CC(CC1)(F)F | C19H26ClF2N3O2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Oxetan-3-one | 1.10 mmol, 0.112 mL, 2.00 equiv | O1CC(C1)=O | C3H4O2
reactant | sodium | [Na] | Na
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-chloro-6-(3,3-difluoropyrrolidin-1-yl)-4-(1-(oxetan-3-yl)piperidin-4-yl)pyridine | 166 mg, 85% yield | ClC1=NC(=CC(=C1)C1CCN(CC1)C1COC1)N1CC(CC1)(F)F | C17H22ClF2N3O
